US05264437
1-(3-Nitrophenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (450 mg, 1.20 mmoles), prepared, e.g., in Example 5, was suspended in methanol (5 ml) and to this suspension, 5 ml of a 5% HCl/methanol solution was added. The suspension was stirred for 45 minutes during which a clear solution was formed. The solvent was removed and the residue was triturated with ethyl ether. A white precipitate was formed and isolated by filtration yielding 439 mg (1.06 mmole, 89% yield) of 1-(3-nitrophenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione hydrochloride (mp 265°-270° C).

reactant | 1-(3-Nitrophenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.20 mmoles, 450 mg | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC2=CC=NC=C2)=O | C19H13N5O4
reactant | HCl methanol | Cl.CO
solvent | methanol | 5 ml | CO | CH4O
product | 1-(3-nitrophenyl)-3-(4-pyridylmethyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione hydrochloride | 1.06 mmole, 439 mg, 89% yield | Cl.[N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)CC2=CC=NC=C2)=O | InChI=1S/C19H13N5O4.ClH/c25-18-16-5-2-8-21-17(16)23(14-3-1-4-15(11-14)24(27)28)19(26)22(18)12-13-6-9-20-10-7-13;/h1-11H,12H2;1H
